US06916804B2
N-(6-chloro-2-phenylpyrimidin-4-yl)-2-piperidin-1-ylacetamide (22.47)
2-Bromo-N-(6-chloro-2-phenylpyrimidin-4-yl)acetamide (28 mg) was dissolved in acetonitrile (2 ml) and piperidine added (23 μl in 500 ul acetonitrile). The mixture was left to stir for 1.5 hr after which time the solvent was removed in vacuo. Purification using a short silica plug, eluting with a mixture of ethyl acetate and petroleum ether (1:1 v/v) furnished the title compound (25 mg).

reactant | 2-Bromo-N-(6-chloro-2-phenylpyrimidin-4-yl)acetamide | 28 mg | BrCC(=O)NC1=NC(=NC(=C1)Cl)C1=CC=CC=C1 | C12H9BrClN3O
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | acetonitrile | 500 ul | C(C)#N | C2H3N
product | N-(6-chloro-2-phenylpyrimidin-4-yl)-2-piperidin-1-ylacetamide | 25 mg | ClC1=CC(=NC(=N1)C1=CC=CC=C1)NC(CN1CCCCC1)=O | C17H19ClN4O
